US06602884B2
A solution of 70 mg of ethyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-ylthio)ethyl]piperidine-3-acetate, 1 cm3 of dioxane and 0.3 cm3 of a 1 N aqueous sodium hydroxide solution was heated, with stirring, at a temperature in the region of 60° C. for 1 hour. After concentrating the reaction mixture under reduced pressure (5 kPa) at a temperature in the region of 40° C., the residue obtained was taken up in 25 cm3 of water and 10 cm3 of dichloromethane. The aqueous phase was separated after settling out and then acidified by pouring 0.3 cm3 of 1 N hydrochloric acid. The precipitate formed was dissolved by adding 25 cm3 of dichloromethane. The organic phase was washed with 10 cm3 of a saturated aqueous sodium chloride solution and dried over magnesium sulfate, filtered and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was then dissolved in the hot state in 2 cm3 of acetone. 0.07 cm3 of 4 N hydrochloric acid in dioxane were poured over this solution. The resulting mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 72 mg of (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxy quinolin-4-yl)propyl]-1-[2-(thien-2-ylthio)ethyl]piperidine-3-acetic acid dihydrochloride were obtained in the form of a powder, which was white in color.

reactant | ethyl (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-ylthio)ethyl]piperidine-3-acetate | 70 mg | OC(CCC1C(CN(CC1)CCSC=1SC=CC1)CC(=O)OCC)C1=C(C=NC2=CC=C(C=C12)OC)F | C28H35FN2O4S2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | hydrochloric acid | 4 N, 0.07 cm3 | Cl | ClH
solvent | water | 25 cm3 | O | H2O
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | acetone | 2 cm3 | CC(=O)C | C3H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | dioxane | 1 cm3 | O1CCOCC1 | C4H8O2
product | (3RS,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxy quinolin-4-yl)propyl]-1-[2-(thien-2-ylthio)ethyl]piperidine-3-acetic acid dihydrochloride | 72 mg | Cl.Cl.OC(CCC1C(CN(CC1)CCSC=1SC=CC1)CC(=O)O)C1=C(C=NC2=CC=C(C=C12)OC)F | InChI=1S/C26H31FN2O4S2.2ClH/c1-33-19-5-6-22-20(14-19)26(21(27)15-28-22)23(30)7-4-17-8-9-29(16-18(17)13-24(31)32)10-12-35-25-3-2-11-34-25;;/h2-3,5-6,11,14-15,17-18,23,30H,4,7-10,12-13,16H2,1H3,(H,31,32);2*1H
